US07601844B2
To a suspension of 1-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)thiourea (29 mg, 0.073 mmol) in acetone (300 μL) was added 1,3-dichloropropan-2-one (14 mg, 0.105 mmol) and the reaction mixture was stirred overnight at rt. The solvents were removed and the residue purified via column chromatography (SiO2, 25% EtOAc/hep then 50% EtOAc/hep then 10% EtOAc with 0.06% DIPEA). (R)-2-(4-(chloromethyl)thiazol-2-ylamino)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one (35 mg, >95% yield) was isolated as a clear glass. HPLC purity: >99%, rt 3.87 min; MS found: 470.22 (M+)+.

reactant | 1-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)thiourea | 0.073 mmol, 29 mg | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(=S)N)=O)(C)C)O | C19H28ClN3O2S
reactant | 1,3-dichloropropan-2-one | 0.105 mmol, 14 mg | ClCC(CCl)=O | C3H4Cl2O
solvent | acetone | 300 μL | CC(=O)C | C3H6O
product | (R)-2-(4-(chloromethyl)thiazol-2-ylamino)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one | 35 mg, >95% yield | ClCC=1N=C(SC1)N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C | C22H29Cl2N3O2S
